US06756378B2
To a stirred solution of ethyl 4-amino-2,3-difluorophenylacetate (323 mg, 1.5 mmol) in DMF (8 mL), were added triethylamine (0.209 ml, 1.5 mmol) and 2-methylphenyl isocyanate (0.372 ml, 3.0 mmol) at rt. The stirring was continued for 48 hour at 80° C. The reaction mixture was evaporated in vacuo, and the solid was suspended to n-hexane. The solid was collected through filtration. The solid was dissolved in THF—MeOH (1:1, v/v, 20 mL), and was added 4M NaOH (10 mL) at rt. The stirring was continued for 18 hours at rt. The reaction was poured into 1M HCl, and the resulting precipitate was collected through filtration. The solid was recrystallized with CHCl3-n-hexane to give 4-[(2-methylphenyl)ureido]-2,3-difluorophenylacetic acid (200 mg, 42%) as a white solid. 1H-NMR (CDCl3) δ2.30 (s, 3H), 3.35 (s, 2H), 6.98 (m, 1H), 7.04 (m, 1H), 7.18 (d, J=7.3 Hz, 2H), 7.69 (d, J=8.1 Hz, 1H), 7.90 (m, 1H); MS FAB) m/z 321 (M++1).

reactant | ethyl 4-amino-2,3-difluorophenylacetate | 1.5 mmol, 323 mg | NC1=C(C(=C(C=C1)CC(=O)OCC)F)F | C10H11F2NO2
reactant | triethylamine | 1.5 mmol, 0.209 ml | C(C)N(CC)CC | C6H15N
reactant | 2-methylphenyl isocyanate | 3.0 mmol, 0.372 ml | CC1=C(C=CC=C1)N=C=O | C8H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 4-[(2-methylphenyl)ureido]-2,3-difluorophenylacetic acid | 200 mg, 42% | CC1=C(C=CC=C1)NC(NC1=C(C(=C(C=C1)CC(=O)O)F)F)=O | C16H14F2N2O3
